US08003785B2
A mixture of 0.07 g (0.24 mmole) of 2-chloro-7,7-difluoro-9-isopropyl-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-292), 0.067 g (0.26 mmole) of 4-amino-N-(3-dimethylamino-propyl)-3-methoxy-benzamide, 0.069 g (0.36 mmole) of p-toluenesulfonic acid monohydrate and 4 mL of isopropanol was heated in a pressure tube at 140 degrees overnight. After cooling, dichloromethane and saturated sodium carbonate were added. The mixture was extracted with dichloromethane twice. The combined organic layers were washed three times with sodium carbonate, three times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 100:0-0:100) gave 0.065 g of give 4-(7,7-difluoro-9-isopropyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-methoxy-benzamide (I-296) as a white solid.

reactant | 2-chloro-7,7-difluoro-9-isopropyl-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.24 mmole, 0.07 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C(C)C)N1 | C11H13ClF2N4O
reactant | 4-amino-N-(3-dimethylamino-propyl)-3-methoxy-benzamide | 0.26 mmole, 0.067 g | NC1=C(C=C(C(=O)NCCCN(C)C)C=C1)OC | C13H21N3O2
reactant | p-toluenesulfonic acid monohydrate | 0.36 mmole, 0.069 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | isopropanol | 4 mL | C(C)(C)O | C3H8O
product | 4-(7,7-difluoro-9-isopropyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(3-dimethylamino-propyl)-3-methoxy-benzamide | 0.065 g | FC1(C(N(C2=C(N(C1)C(C)C)N=C(N=C2)NC2=C(C=C(C(=O)NCCCN(C)C)C=C2)OC)C)=O)F | C24H33F2N7O3
